US09326973B2
A 1M solution of potassium tert-butoxide (3.00 mL, 3.00 mmol) in THF was added to a cold (0° C.) stirred solution of 2-bromo-N-(tert-butyl)-2-methylpropanamide (0.666 g, 3 mmol) in an. ether (30 mL) and the mixture was stirred at 0° C. for 2-3 h. Then 2nd equivalent of potassium tert-butoxide (3.00 mL, 3.00 mmol) was added and the mixture allowed to warm to rt and stirred overnight. The reaction was quenched with satd. NH4Cl, the organic layer was separated and washed with water, brine and dried (Na2SO4). The crude isolate was purified by silica gel FCC (3% MeOH in DCM) to afford tert-butyl 2-(tert-butylamino)-2-methylpropanoate (365 mg) as a light brown oil. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 1.93 (br. s, 7H), 1.46 (s, 9H), 1.14 (s, 9H).

reactant | potassium tert-butoxide | 3.00 mmol, 3.00 mL | CC(C)([O-])C.[K+]
reactant | 2-bromo-N-(tert-butyl)-2-methylpropanamide | 3 mmol, 0.666 g | BrC(C(=O)NC(C)(C)C)(C)C | C8H16BrNO
reactant | ether | 30 mL | CCOCC | C4H10O
reactant | potassium tert-butoxide | 3.00 mmol, 3.00 mL | CC(C)([O-])C.[K+]
reactant | THF | C1CCOC1 | C4H8O
product | tert-butyl 2-(tert-butylamino)-2-methylpropanoate | 365 mg | C(C)(C)(C)NC(C(=O)OC(C)(C)C)(C)C | C12H25NO2
